US08802697B2
Synthesis of tert-butyl 4-(2-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate
To a solution of 2,4-dichloro-5-methylpyrimidine (0.75 g, 4.6 mmol) in dry DMF (15.5 mL) was added tert-butyl piperazine-1-carboxylate (0.9 g, 4.85 mmol) followed by DIEA (0.91 mL, 5.5 mmol) at 0° C., and the mixture was stirred to room temperature overnight. LCMS showed the reaction was completed. The reaction was diluted with water (120 mL), and the solid was filtered. The residue was washed with water and dried to give the title compound (1.386 g, 96%) as a white solid. MS (ES+) C14H21ClN4O2 requires: 312. found: 313 [M+H]+

reactant | 2,4-dichloro-5-methylpyrimidine | 4.6 mmol, 0.75 g | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | tert-butyl piperazine-1-carboxylate | 4.85 mmol, 0.9 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIEA | 5.5 mmol, 0.91 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15.5 mL | CN(C)C=O | C3H7NO
solvent | water | 120 mL | O | H2O
product | tert-butyl 4-(2-chloro-5-methylpyrimidin-4-yl)piperazine-1-carboxylate | 1.386 g, 96% | ClC1=NC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C14H21ClN4O2
